US09370522B2
Methyl 3-oxo-2-phenyl-3,4-dihydroquinoxaline-6-carboxylate (100 mg, 0.36 mmol, 1.00 equiv) and PCl5 (220 mg, 1.07 mmol, 3.00 equiv) in CH3CN (10 mL) was allowed to react, with stifling, for 5 hrs while the temperature was maintained at reflux in an oil bath. The reaction was then quenched by the addition of 50 mL of water, and the pH value of the solution was adjusted to 9 with saturated K2CO3. The resulting solution was extracted with 3×50 mL of ethyl acetate, the organic layers combined and dried over anhydrous sodium sulfate, and concentrated under vacuum, affording 60 mg (56%) of methyl 3-chloro-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | Methyl 3-oxo-2-phenyl-3,4-dihydroquinoxaline-6-carboxylate | 0.36 mmol, 100 mg, 1.00 equiv | O=C1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H12N2O3
reactant | PCl5 | 1.07 mmol, 220 mg, 3.00 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 60 mg, 56% | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
